US05612331
A mixture of 4-phthalimidocyclohexanone (2.43 g) and 4-hydrazinobenzoic acid (1.52 g) were combined in acetic acid and boiled for 12 hours. The precipitate was filtered and washed with acetic acid (3×10 ml) and diethyl ether (3×10 ml) to give 6-carboxy-3-phthalimido-1,2,3,4-tetrahydrocarbazole (1.50 g) m.p. 345°-348° C.

reactant | 4-phthalimidocyclohexanone | 2.43 g | C1(C=2C(C(N1C1CCC(CC1)=O)=O)=CC=CC2)=O | C14H13NO3
reactant | 4-hydrazinobenzoic acid | 1.52 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-carboxy-3-phthalimido-1,2,3,4-tetrahydrocarbazole | 1.50 g | C(=O)(O)C=1C=C2C=3CC(CCC3NC2=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O4
